US05888941
A solution of ethyl 2-oximinoacetoacetate (6 g, 38 mmol; obtained according to Org.Synth. 1941, 21, 67) in MeCN (75 mL) was treated with 4-chlorobenzylamine (5.6 g, 40 mmol) at reflux for 18 h. Next, the reaction mixture was allowed to cool and the yellow solid formed was collected by filtration to give ethyl 2-(4-chlorophenyl)-5-methyl-3H-imidazole-4-carboxylate as a white solid (4.1 g, 40%): mp 237°-238° C.; 1H NMR (300 MHz, DMSO--d6) δ (DMSO) 7.96 (d, J=8, 2H, arom), 7.57 (d, J=8, 2H, arom), 4.27 (q, J=7, 2H, OCH2), 2.54 (s, 3H, Me-imidazole), 1.33 (t, J=7, 3H, OCH2CH3). Analysis calculated for C13H13ClN2O2 : C 58.99; H 4.95; N 10.58. Found: C 59.20; H 4.95; N 10.59.

reactant | ethyl 2-oximinoacetoacetate | 38 mmol, 6 g | N(O)=C(C(=O)OCC)C(=O)C | C6H9NO4
reactant | 4-chlorobenzylamine | 40 mmol, 5.6 g | ClC1=CC=C(CN)C=C1 | C7H8ClN
solvent | MeCN | 75 mL | CC#N | C2H3N
product | ethyl 2-(4-chlorophenyl)-5-methyl-3H-imidazole-4-carboxylate | 4.1 g, 40% | ClC1=CC=C(C=C1)C1=NC(=C(N1)C(=O)OCC)C | C13H13ClN2O2
